US04542237
A solution of 6.25 g of methanesulfonyl chloride in 20 ml of dry methylene chloride is added dropwise to a mixture of 12.37 g of 1-(4-isobutylphenyl)-1,1-dimethoxypropan-2-ol and 80 ml of dry methylene chloride containing 6.5 g of dry triethylamine at 5°-10° C. The addition takes place over about 40 minutes and the reaction mixture is stirred for an additional 1.5 hours at 5°-10° C. after that addition is completed. After that time, an additional 0.6 g of methanesulfonyl chloride is added at 5°-10° C. and stirring is continued for an additional 50 minutes. An additional 1.5 g of triethylamine is added to the reaction mixture and then the reaction mixture is poured into 50 ml of water. The aqeuous and organic phases are separated and the aqueous phase is extracted with methylene chloride. The combined methylene chloride layers then are washed with 50 ml of saturated aqueous sodium chloride and the methylene chloride layer is dried over sodium sulfate. After filtration to remove the sodium sulfate, the methylene chloride is evaporated on a rotary evaporator under reduced pressure to afford 1-(4-isobutylphenyl)-1,1-dimethoxyprop-2-yl methanesulfonate [which is characterized by an NMR spectra in deuterochloroform of τ=9.10 (doublet, J=2.2), 8.8 (doublet, J=2.1), 8.12 (septet, J =2.1), 7.48 (doublet, J =2.3), 6.88, 6.75, 6.67, 4.92 (quartet, J =2.1) and 2.5-2.9 (aromatic AB pattern)].

reactant | methanesulfonyl chloride | 6.25 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-isobutylphenyl)-1,1-dimethoxypropan-2-ol | 12.37 g | C(C(C)C)C1=CC=C(C=C1)C(C(C)O)(OC)OC | C15H24O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml, 6.5 g | C(Cl)Cl | CH2Cl2
product | 1-(4-isobutylphenyl)-1,1-dimethoxyprop-2-yl methanesulfonate | CS(=O)(=O)OC(C(OC)(OC)C1=CC=C(C=C1)CC(C)C)C | C16H26O5S
